US08809342B2
4-(trifluoromethyl)phenylboronic acid (500 mg, 2.63 mmol), 2-chloro-5-nitropyridine (417 mg, 2.63 mmol), potassium carbonate (908 mg, 6.58 mmol) and palladium(II) acetate (23.6 mg, 0.105 mmol) were combined in 1:1 dioxane:water (10 mL). The resulting mixture was stirred at 80° C. for 12 hours. The mixture was filtered and the solution was extracted with ethyl acetate. The organic layer was washed with water, then brine, dried over sodium sulfate, filtered and concentrated. Purification by column chromatography gave 5-nitro-2-(4-(trifluoromethyl)phenyl)pyridine (260 mg, 37%). 1H NMR (400 MHz, CDCl3, δ): 9.47 (s, 1 H), 8.51 (d, 1 H), 8.14 (d, 2 H), 7.72 (d, 1 H), 7.65 (d, 2 H).

reactant | 4-(trifluoromethyl)phenylboronic acid | 2.63 mmol, 500 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | 2-chloro-5-nitropyridine | 2.63 mmol, 417 mg | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | potassium carbonate | 6.58 mmol, 908 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dioxane | O1CCOCC1 | C4H8O2
catalyst | palladium(II) acetate | 0.105 mmol, 23.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 10 mL | O | H2O
product | 5-nitro-2-(4-(trifluoromethyl)phenyl)pyridine | 260 mg, 37% | [N+](=O)([O-])C=1C=CC(=NC1)C1=CC=C(C=C1)C(F)(F)F | C12H7F3N2O2
